data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-c1ccc2ccccc2c1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(Cc1ccc2ccccc2c1)C=O","C(Cc1ccc2ccccc2c1)C=O"],"products_smiles": ["C(Cc1ccc2ccccc2c1)C=C(C=O)c1ccc2ccccc2c1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C=O)c1ccc2ccccc2c1","rationale": "The base abstracts the acidic alpha-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(Cc1ccc2ccccc2c1)C([O-])C(C=O)c1ccc2ccccc2c1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, favored by polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc2ccccc2c1)C(O)C(C=O)c1ccc2ccccc2c1","rationale": "Protonation of the alkoxide intermediate occurs to form the more stable neutral beta-hydroxyketone under basic aqueous conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccc2ccccc2c1)C(O)[C-](C=O)c1ccc2ccccc2c1","rationale": "The base deprotonates the alpha-position again, generating an enolate that is positioned for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(Cc1ccc2ccccc2c1)C=C(C=O)c1ccc2ccccc2c1","rationale": "Elimination of hydroxide occurs, forming a conjugated enone stabilized by extended pi-delocalization, making the step thermodynamically favorable."}],"description": "Under basic conditions, an alpha-proton is abstracted to form an enolate, which nucleophilically attacks another carbonyl, forming a beta-hydroxyketone. Subsequent deprotonation and elimination yield the conjugated enone via aldol condensation, driven by resonance stabilization of the product."}
{"reaction_id": "NR-221_1-c4ccccc4_2-CC","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccccc4)(CC)"],"products_smiles": ["C1(c4ccccc4)(CC)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccccc4)(CC)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccccc4 and CC, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccccc4)(CC)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccccc4)(CC)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
{"reaction_id": "NR-222_1-C(F)(F)F_2-C_3-c1ccco1_4-C","level": "medium","name": "Pinacol Coupling","reactants_smiles": ["C1=CC=C(C=C1)C(=O)"],"products_smiles": ["C(O)(C(F)(F)F)(C(O)(C(F)(F)F)C(C)(c1ccco1)C)C(C)(c1ccco1)C"],"conditions": "Mg","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "[CH](C(F)(F)F)O[Mg]O[CH]C(C(F)(F)F)","step_weight": 0,"rationale": "Mg donates electrons to the carbonyls, forming ketyl radicals stabilized by resonance with the aromatic ring; radical–radical coupling is favored due to high radical concentration and proximity, forming a new C–C bond."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(C(C(F)(F)F)O)O","step_weight": 0,"rationale": "The alkoxide oxygens, strongly basic after coupling, are protonated under workup conditions, driven by the thermodynamic stability of neutral diols and the high basicity of the alkoxide intermediates."}],"description": "Under Mg-mediated conditions, the carbonyl groups are reduced to ketyl radicals, which couple to form a C–C bond between the former carbonyl carbons. Subsequent protonation of the alkoxide intermediates yields the vicinal diol product characteristic of the pinacol coupling."}
